US04670193
p-Fluorophenylbuty phosphonic acid
To a solution of p-fluorophenylbutyl phosponous acid (1 g, 0.0046 mole) in acetone (10 ml) and water (10 ml) was added a solution of sodium hydroxide (0.185 g, 0.0046 mole) in water (5 ml) until a pH of 7 was reached. A solution of KMnO4 (0.44 gm, 0.0028 mole) in water (50 ml) was added slowly to the vigorously stirred solution of phosphonous acid at 20-25° C. After the addition (20 min), the reaction mixture was stirred for 10 min at ambient temperature and acidified with concentrated HCl acid until a pH 1 was reached. Saturated sodium bisulphite solution was added to the reaction mixture thereby resulting in formation of a cloudy white precipitate.

reactant | p-fluorophenylbutyl phosponous acid | 0.0046 mole, 1 g | FC1=CC=C(C=C1)CCCCP(O)O | C10H14FO2P
reactant | sodium hydroxide | 0.0046 mole, 0.185 g | [OH-].[Na+]
reactant | KMnO4 | 0.0028 mole, 0.44 gm | [O-][Mn](=O)(=O)=O.[K+]
reactant | phosphonous acid | P(O)O | H3O2P
reactant | HCl | Cl | ClH
reactant | sodium bisulphite | S([O-])(O)=O.[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | p-Fluorophenylbuty phosphonic acid | FC1=CC=C(C=C1)CCCCP(O)(O)=O | C10H14FO3P
